US05606037
Step 3: 5,8-dioxo-3-ethyl-5,8-dihydro-isochroman
To a solution of 3-ethyl-5,8-dimethoxy-isochroman (300 mg; 1.35 mmol) in acetonitrile (10 ml) at room temperature was added dropwise a solution of CAN (prepared by dissolving ceric ammonium nitrate (2.22 g; 4.0 mmol) in water (5 ml)). The resulting mixture was quenched with saturated bicarbonate solution and extracted with dichloromethane. The combined organic layers were washed with brine and dried over Na2SO4 affording the crude title compound (251 mg; 97%) which was used as such for subsequent steps.

reactant | 3-ethyl-5,8-dimethoxy-isochroman | 1.35 mmol, 300 mg | C(C)C1OCC2=C(C=CC(=C2C1)OC)OC | C13H18O3
reactant | CAN | 4.0 mmol, 5 ml, 2.22 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5,8-dioxo-3-ethyl-5,8-dihydro-isochroman | O=C1C=2CC(OCC2C(C=C1)=O)CC | C11H12O3
